US05538984
3-[2-[1-(Phenylmethyl)-4-piperazinyl]ethyl]-1,2-benzisoxazole dihydrochloride salt
A mixture of 3-(2-chloroethyl)-1,2-benzisoxazole (0.55 g, 3.03 mmol) and N-benzylpiperazine (1.06 mL, 6.06 mmol) in xylene (4 mL) was heated at 150° C. for 4.75 hours. The cooled mixture was diluted with CH2Cl2 and washed with H2O. The organic layer was dried (MgSO4), filtered and concentrated. Purification by silica gel flash chromatography (50% EtOAc-hexanes→100% EtOAc) gave the title compound, free base (0.337 g, 35%) as a pale yellow oil.

reactant | 3-(2-chloroethyl)-1,2-benzisoxazole | 3.03 mmol, 0.55 g | ClCCC1=NOC2=C1C=CC=C2 | C9H8ClNO
reactant | N-benzylpiperazine | 6.06 mmol, 1.06 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | xylene | 4 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[2-[1-(Phenylmethyl)-4-piperazinyl]ethyl]-1,2-benzisoxazole dihydrochloride salt | Cl.Cl.C1(=CC=CC=C1)CN1CCN(CC1)CCC1=NOC2=C1C=CC=C2 | InChI=1S/C20H23N3O.2ClH/c1-2-6-17(7-3-1)16-23-14-12-22(13-15-23)11-10-19-18-8-4-5-9-20(18)24-21-19;;/h1-9H,10-16H2;2*1H
